data/oMe_Silver.jsonl
{"reaction_id": "NR-210_1-c2ccc(C)cc2_2-C2CCCCC2_3-CSCC","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(c2ccc(C)cc2)","O(C(C2CCCCC2)(CSCC))"],"products_smiles": ["O=C(C2CCCCC2)CSCC"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](c2ccc(C)cc2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](c2ccc(C)cc2)(O([S](=O)(=O)[O-]))O(C(C2CCCCC2)(CSCC)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](c2ccc(C)cc2)(=C)O(C(C2CCCCC2)(CSCC))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(C2CCCCC2)CSCC","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
{"reaction_id": "NR-109_1-C","name": "Hofmann Rearrangement","level": "medium","reactants_smiles": ["C(C)(=O)N","[OH-]","BrBr"],"products_smiles": ["N(C)"],"conditions": "NaOH, Br2","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=O)[NH-]","rationale": "Strong base deprotonates the amide nitrogen, increasing its nucleophilicity and enabling subsequent electrophilic bromination."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(C)(=O)NBr","rationale": "The nucleophilic nitrogen attacks electrophilic bromine due to Br2 polarization in basic medium, forming an N-bromoamide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=O)[N-]Br","rationale": "Base deprotonates the N–H of the N-bromoamide, generating a negatively charged nitrogen that facilitates rearrangement."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=NC","rationale": "The electron-rich nitrogen promotes a 1,2-shift of C from carbon to nitrogen, driven by formation of a stable isocyanate and expulsion of bromide."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(=C(O)[O-])C","rationale": "Hydroxide adds to the electrophilic carbon of the isocyanate, as the C=O is strongly polarized and susceptible to nucleophilic attack."},{"step": 6,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[NH-]C","rationale": "Collapse of the tetrahedral intermediate cleaves the C–N bond, releasing CO2 and forming an amide anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(C)","rationale": "The amide anion is protonated by water or solvent, yielding the primary amine product."}],"description": "Under strongly basic, oxidative conditions (NaOH, Br2), the amide undergoes Hofmann rearrangement. Bromination at nitrogen, followed by base-induced rearrangement, generates an isocyanate intermediate, which hydrolyzes to a primary amine with loss of the carbonyl carbon as CO2."}
